US20010056109A1
(a) 3-Cyclohexylindan-1-one
This compound was prepared according to the method described by B. M. Trost and L. H. Latimer in J. Org. Chem. 42 (1977) 3212. The starting compounds were 1-indanone and cyclohexyl bromide.

reactant | 1-indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | cyclohexyl bromide | C1(CCCCC1)Br | C6H11Br
product | 3-Cyclohexylindan-1-one | C1(CCCCC1)C1CC(C2=CC=CC=C12)=O | C15H18O
